.title KiCad schematic
.include "C:/Users/tassi/git/ANS-VCO-Projekt-2026/Testprojekt/spicelibs/elk.lib"
.save all
.probe alli
.probe p(V1)
.probe p(R1)
.probe p(Q1)
.probe p(V2)
.dc V2 0 1 10m
V1 /VDD 0 DC 10 
R1 /VDD /vd 1k
Q1 /vd /vg 0 Q2N3904
V2 /vg 0 DC 1 
.end
