.title KiCad schematic
.include "C:/Users/torbe/Documents/2.0 Studium/6.0 Semester/M6.10 Analoge Schaltungen (ANS)/ANS-VCO-Projekt-2026/Testprojekt/spicelibs/elk.lib"
.save all
.probe alli
.probe p(V1)
.probe p(R1)
.probe p(Q1)
.probe p(V2)
.dc V1 0 1 1m
V1 /VG GND DC 1 
R1 /VDD /vd 1k
Q1 /vd /VG GND Q2N3904
V2 /VDD GND DC 10 
.end
