.title KiCad schematic
.include "../spicelibs/J113.lib"
.include "../spicelibs/elk.lib"
.include "../spicelibs/lm7171.lib"

.save all

* Parameter
.param R=1K
.param C=17p
.param Vstr=2

* Initial Condition
.ic V(/Va)=1e-12

* Options
.options reltol=0.005 trtol=4 method=gear
.options numdgt=7

* Datenexport
.control
wrdata Wien-VCO.csv V(/Va) V(/Ve)
.endc

* Analyse
.tran 1n 100u

* Schaltung
R3 /Ve /Va 2.4k
C3 0 Net-_D1-A_ 1n
J1 Net-_J1-D_ Net-_D1-A_ 0 J113
R5 Net-_D1-A_ 0 20k
XU1 Net-_D5-A_ /Ve VCC+ VCC- /Va LM7171
R7 /Va Net-_D1-K_ 30
D1 Net-_D1-A_ Net-_D1-K_ D1N4148
R4 /Ve 0 1.2k
R2 Net-_D5-A_ 0 {R}
R8 /Ve Net-_J1-D_ 10k
D5 Net-_D5-A_ Net-_D3-K_ 1SV305
C1 Net-_D5-A_ 0 {C}
R6 Vstr Net-_D3-K_ 100k
D3 0 Net-_D3-K_ 1SV305
R9 Vstr Net-_D2-K_ 100k
V1 0 VCC- DC 10 
V2 VCC+ 0 DC 10 
C2 /Va Net-_D4-A_ {C}
R1 Net-_D4-A_ Net-_D5-A_ {R}
D4 Net-_D4-A_ Net-_D2-K_ 1SV305
V3 Vstr 0 DC {Vstr} 
D2 /Va Net-_D2-K_ 1SV305
.end
